US06166010
2,6-Difluorobenzoyl chloride (2.65 g, 0.015 mol) is added in portions to a solution of 3-amino-3- (4-t-butylphenyl)-1-propanol (3.1 g, 0.015 mol) and triethylamine (3.03 g, 0.04 mol) in 30 ml of acetonitrile at room temperature (20° C.) in the course of 10 minutes. The reaction mixture is further stirred for 7 hours, water is added and the mixture is extracted with ethyl acetate. 4.5 g of N-[1-(4-t-butylphenyl)-3-hydroxy-propyl]-2,6-difluorobenzamide are isolated from the ethyl acetate phase as a crude product having a content of 28% according to GC/MS analysis, which is employed as such in the next reaction step.

reactant | 2,6-Difluorobenzoyl chloride | 0.015 mol, 2.65 g | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
reactant | 3-amino-3- (4-t-butylphenyl)-1-propanol | 0.015 mol, 3.1 g | NC(CCO)C1=CC=C(C=C1)C(C)(C)C | C13H21NO
reactant | triethylamine | 0.04 mol, 3.03 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | N-[1-(4-t-butylphenyl)-3-hydroxy-propyl]-2,6-difluorobenzamide | 4.5 g | C(C)(C)(C)C1=CC=C(C=C1)C(CCO)NC(C1=C(C=CC=C1F)F)=O | C20H23F2NO2
